US04855445
Step (3) Preparation of 1-Ethyl-8-(1-propynyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid, Methyl Ester
A mixture of 1-ethyl-8-iodo-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid, methyl ester (5.93 g, 14.86 mmol), copper (I) methyl acetylide (3.05 g, 29.72 mmol), and 75 mL of dry pyridine was refluxed, under a flow of nitrogen, for 6 hours. The mixture was then poured into 100 mL of 1N HCl and the aqueous solution was extracted with ether. The combined extracts were washed with 1N HCl and saturated NaCl, dried over magnesium sulfate, filtered and concentrated to give the crude product. The material was purified by flash chromatography (15% ethyl acetate/hexane, silica gel) to give the pure title compound (2.16 g).

reactant | 1-ethyl-8-iodo-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid, methyl ester | 14.86 mmol, 5.93 g | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)I)CC(=O)OC | C16H18INO3
reactant | HCl | 1N, 100 mL | Cl | ClH
reactant | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-8-(1-propynyl)-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid, Methyl Ester | 2.16 g | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)C#CC)CC(=O)OC | C19H21NO3
